US04177292
0.6 ml of dimethylsulfoxide were added at room temperature to 60 mg of sodium hydride in a 50% oil dispersion and the mixture was heated to 50° C. for 20 minutes and was then cooled to 20° C. 205 mg of cis 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol were added thereto and after stirring the mixture for 15 minutes, 0.13 ml of p-chloro-fluorobenzene was added thereto. The mixture stood for one hour at 20° C. and was heated at 50° C. for 90 minutes and for 3 hours at 100° C. The mixture was cooled to 20° C. and was extracted with 30 ml of methylene chloride. The organic phase was washed with water, dried and evaporated to dryness to obtain 300 mg of raw product which was chromatographed over silica gel. Elution with a 7-3 chloroform-methanol mixture and evaporation of the solvent yielded 250 mg of cis N,N-dimethyl-5-[4-chlorophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine in the form of an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | cis 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 205 mg | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)O)C | C13H19NO
reactant | p-chloro-fluorobenzene | 0.13 ml | ClC1=CC=C(C=C1)F | C6H4ClF
solvent | dimethylsulfoxide | 0.6 ml | CS(=O)C | C2H6OS
product | cis N,N-dimethyl-5-[4-chlorophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine | 250 mg | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=CC=C(C=C2)Cl)C | C19H22ClNO
